US04319916
3-Acetyl-5-(3-bromophenyl)-1-methyl-4(1H)-pyridinone
To 1.5 g. of 1-(3-bromophenyl)-2,4-pentanedione was added 25 ml. of N,N-dimethylformamide dimethyl acetal. The mixture was stirred at reflux temperature for 18 hours, cooled and evaporated to a thick oil under vacuum. The oil was dissolved in 500 ml. of tetrahydrofuran, and 10 ml. of 40% aqueous methylamine was added. The mixture was stirred at ambient temperature for 4 hours, and was then evaporated under vacuum. The residue was dissolved in 800 ml. of dichloromethane, and washed with 500 ml. of water. The organic layer was dried over magnesium sulfate, treated with activated charcoal, filtered and evaporated under vacuum. The solids were recrystallized twice from dichloromethane/diisopropyl ether. The solids were then chromatographed on a silica gel column with ethyl acetate as the eluting solvent. The yield was 0.8 g. of the desired product, m.p. 192°-194°. Nmr analysis in DMSOd6 showed peaks at δ7.25-8.40 (m, 6H, aromatic); 3.75 (s, 3H, N--CH3); 2.53 (s, 3H, COCH3).

reactant | 1-(3-bromophenyl)-2,4-pentanedione | BrC=1C=C(C=CC1)CC(CC(C)=O)=O | C11H11BrO2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | 3-Acetyl-5-(3-bromophenyl)-1-methyl-4(1H)-pyridinone | C(C)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)Br)C | C14H12BrNO2
